US07834037B2
Step 5: 3-[3-tert-Butylsulfanyl-1-[4-(6-methoxy-pyridin-3-yl)-benzyl]-5-(pyridin-2-ylmethoxy)-1H-indol-2-yl]-2,2-dimethyl-propionic acid ethyl ester
3-[3-tert-Butylsulfanyl-5-(pyridin-2-ylmethoxy)-1H-indol-2-yl]-2,2-dimethyl-propionic acid ethyl ester (A-4; 20.0 g, 45.4 mmol) was dissolved in DMF (150 mL) and cooled to −10° C. under N2. Sodium hydride (60% dispersion in mineral oil; 2.0 g, 50.0 mmol) was added portionwise, and the reaction was stirred at −110° C. for 45 minutes until the foam had disappeared. To this dark brown-reddish solution was added methanesulfonic acid 4-(6-methoxy-pyridin-3-yl)-benzyl ester (Int-72; 16.0 g, 54.5 mmol) in DMF dropwise. The reaction was then stirred at −10° C. for 1 hour and allowed to warm to room temperature slowly. After 16 hours, LCMS confirmed the formation of the product. The reaction was quenched with saturated NH4Cl and diluted with methyl tert-butyl ether (MTBE) and water. The aqueous phase was extracted twice with MTBE. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the crude product was purified by column chromatography to give the desired product (A-5).

reactant | 3-[3-tert-Butylsulfanyl-5-(pyridin-2-ylmethoxy)-1H-indol-2-yl]-2,2-dimethyl-propionic acid ethyl ester | 45.4 mmol, 20.0 g | C(C)OC(C(CC=1NC2=CC=C(C=C2C1SC(C)(C)C)OCC1=NC=CC=C1)(C)C)=O | C25H32N2O3S
reactant | Sodium hydride | 50.0 mmol, 2.0 g | [H-].[Na+]
reactant | methanesulfonic acid 4-(6-methoxy-pyridin-3-yl)-benzyl ester | 54.5 mmol, 16.0 g | COC1=CC=C(C=N1)C1=CC=C(COS(=O)(=O)C)C=C1 | C14H15NO4S
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 3-[3-tert-Butylsulfanyl-1-[4-(6-methoxy-pyridin-3-yl)-benzyl]-5-(pyridin-2-ylmethoxy)-1H-indol-2-yl]-2,2-dimethyl-propionic acid ethyl ester | C(C)OC(C(CC=1N(C2=CC=C(C=C2C1SC(C)(C)C)OCC1=NC=CC=C1)CC1=CC=C(C=C1)C=1C=NC(=CC1)OC)(C)C)=O | C38H43N3O4S
